US04264599
3.6 g of a sodium hydride suspension (55%) are added in portions, at 0°-5°, to 15.7 g of 3-(2,3-epoxypropoxy)-2-nitro-pyridine and 9.0 g of benzyl alcohol dissolved in 150 ml of 1,2-dimethoxyethane, with stirring and cooling, and the mixture is stirred for a further 3 hours at 0°-5° and for 2 hours at 20°-25°. The reaction mixture is evaporated, the residue is dissolved in ethyl acetate, the solution is washed with water and the ethyl acetate solution is evaporated. The residue (20 g) is chromatographed on 400 g of silica gel and eluted with toluene (250 ml fractions). 2-Benzyloxy-3-(2,3-epoxypropoxy)-pyridine is obtained in the form of an oil from fractions 28-36.

reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | 3-(2,3-epoxypropoxy)-2-nitro-pyridine | 15.7 g | O1C(COC=2C(=NC=CC2)[N+](=O)[O-])C1 | C8H8N2O4
reactant | benzyl alcohol | 9.0 g | C(C1=CC=CC=C1)O | C7H8O
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
product | 2-Benzyloxy-3-(2,3-epoxypropoxy)-pyridine | C(C1=CC=CC=C1)OC1=NC=CC=C1OCC1CO1 | C15H15NO3
